US07358268B2
(ii) 3-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-methyl-2-phenyl-3H-imidazole-4-carboxylic acid methyl ester
To a solution of 60 mg 5-Methyl-2-phenyl-3H-imidazole-4-carboxylic acid methyl ester in 1 ml DMF 95 mg caesium carbonate and 82 mg 3-Bromomethyl-5-(5-chloro-thiophen-2-yl)-isoxazole were added and the mixture was stirred for 2 h at 60° C. After addition of 5 ml water the mixture was filtered through a chem elut® cartridge by elution with ethyl acetate and then concentrated under reduced pressure. The residue was directly subjected to the subsequent saponification reaction without further purification. Yield: 78 mg.

reactant | 5-Methyl-2-phenyl-3H-imidazole-4-carboxylic acid methyl ester | 60 mg | COC(=O)C=1NC(=NC1C)C1=CC=CC=C1 | C12H12N2O2
reactant | 3-Bromomethyl-5-(5-chloro-thiophen-2-yl)-isoxazole | 82 mg | BrCC1=NOC(=C1)C=1SC(=CC1)Cl | C8H5BrClNOS
reactant | water | 5 ml | O | H2O
solvent | DMF | 1 ml, 95 mg | CN(C)C=O | C3H7NO
product | 3-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-methyl-2-phenyl-3H-imidazole-4-carboxylic acid methyl ester | COC(=O)C=1N(C(=NC1C)C1=CC=CC=C1)CC1=NOC(=C1)C=1SC(=CC1)Cl | C20H16ClN3O3S
